US07153854B2
To a mixture of 3-formylbenzoic acid (500 mg) and p-toluenesulfonylmethyl isocyanide (715 mg) in methanol (20 mL) was added potassium carbonate (1.38 g) and the mixture was heated under reflux for 2 hours. After evaporation of solvent, the residue was partitioned between ethyl acetate and water. The aqueous layer was separated and acidified with 1N hydrochloric acid. The resulting precipitates were collected and washed with water, methanol and ether to give 3-(1,3-oxazol-5-yl)benzoic acid as a colorless amorphous powder (484 mg).

reactant | 3-formylbenzoic acid | 500 mg | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | p-toluenesulfonylmethyl isocyanide | 715 mg | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 mL | CO | CH4O
product | 3-(1,3-oxazol-5-yl)benzoic acid | 484 mg | O1C=NC=C1C=1C=C(C(=O)O)C=CC1 | C10H7NO3
